US07342003B2
2-[2-(thiophen-2-yl)ethoxy]-2′,3′,5′-tri-O-(TERT-butyldimethylsilyl)-adenosine
A mixture of 2-chloro-2′,3′,5′-tri-O-(tert-butyldimethylsilyl)adenosine) (Example 1, 1.0 g, 1.5 mmol) and 2-(thiophen-2-yl)ethyl alcohol (5 mL) was heated to 50° C. in a roundbottom flask under a nitrogen atmosphere. Sodium hydride (300 mg, 60% dispersion in mineral oil, 7.7 mmol) was added at a rate so as to control gas evolution. Once complete, the reaction was allowed to cool to room temperature and was carefully quenched with 10 mL of water, then extracted with ethyl acetate (3×20 ml). The combined organic phases were washed with 50 mL of brine, dried over MgSO4, and concentrated to give a brown oil that was purified by chromatography on silica gel eluting with a gradient of 0–10% methanol in CH2Cl2. This afforded 361 mg (33%) of 2-[2-(thiophen-2-yl)ethoxy]-2′,3′,5′-tri-O-(TERT-butyldimethylsilyl)adenosine as an off-white solid which was used without further purification

reactant | 2-chloro-2′,3′,5′-tri-O-(tert-butyldimethylsilyl)adenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N1)N | C28H54ClN5O4Si3
reactant | 2-(thiophen-2-yl)ethyl alcohol | 5 mL | S1C(=CC=C1)CCO | C6H8OS
reactant | Sodium hydride | 7.7 mmol, 300 mg | [H-].[Na+]
product | 2-[2-(thiophen-2-yl)ethoxy]-2′,3′,5′-tri-O-(TERT-butyldimethylsilyl)-adenosine | S1C(=CC=C1)CCOC=1N=C(C=2N=CN([C@H]3[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N1)N | C34H61N5O5SSi3
